US07338960B2
1-[4′-(Trifluoromethyl)-3-biphenylyl]ethanol
A mixture of 1-[4′-(trifluoromethyl)-3-biphenylyl]ethanone (300 mg, 1.14 mmol) in water (1 mL) and EtOH (5 mL) was treated portion-wise with sodium borohydride (57 mg, 1.50 mmol) and then stirred at rt for 1.5 hours. The reaction was then quenched by the addition of saturated aqueous NH4Cl, diluted with CHCl3 and the layers separated. The organic layer was then dried (Na2SO4), filtered and reduced to give the title compound (274 mg).

reactant | 1-[4′-(trifluoromethyl)-3-biphenylyl]ethanone | 1.14 mmol, 300 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)=O)(F)F | C15H11F3O
reactant | sodium borohydride | 1.50 mmol, 57 mg | [BH4-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-[4′-(Trifluoromethyl)-3-biphenylyl]ethanol | 274 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)O)(F)F | C15H13F3O
